US07419988B2
4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-2-[1-(4-morpholinylcarbonyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine
A solution of 1,1-dimethylethyl 4-[4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-1(2H)-pyridinecarboxylate (0.38 mmol) methylene chloride (1 mL) was treated with 4N hydrochloric acid in dioxane (1 mL) and stirred for 1 h at room temperature. The reaction was concentrated in vacuo and evaporated one time from methylene chloride. The resultant residue was suspended in pyridine (5 mL) and treated with 4-morpholine carbonyl chloride (3.00 mmol) and stirred 48 h. The reaction was concentrated and purification of the residue by Gilson reverse phase HPLC provided the title compound (55%). ESMS [M+H]+: 668.4

reactant | 1,1-dimethylethyl 4-[4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-1(2H)-pyridinecarboxylate | 0.38 mmol, 1 mL | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C34H34N6O6S
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | 4-morpholine carbonyl chloride | 3.00 mmol | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-2-[1-(4-morpholinylcarbonyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 55% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C=2CCN(CC2)C(=O)N2CCOCC2)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C34H33N7O6S
